US06437171B1
In a 75 ml pressure reactor equipped with a magnetic stirrer, 4.16 g racemic trans-2-(benzylidenamino)-cyclohexyl methanesulfonic acid ester (14.7 mmol) obtained according to (d) were dissolved in 20 ml of acetonitrile and the white-yellow solution was mixed with 4.50 ml of allylamine (59.2 mmol). The closed system was heated during 20 h at 115° C., then cooled to 0° C. and the viscous solution concentrated. 20 ml of toluene and 22 ml 4N HCl (88.2 mmol) were added and the two-phase mixture was vigorously stirred during 2 h and the two phases were separated. The aqueous phase was extracted with 20 ml of toluene. To the aqueous phase, 7.9 ml 50% aqueous potassium hydroxide solution (102.9 mmol) were added with vigorous stirring and the mixture was extracted with 20 ml of toluene. The brown organic phase was dried with 10 g sodium sulfate, filtered and washed with 10 ml of toluene. The solvent was removed in a rotary evaporator (45° C./60-10 mbar). The product was purified by high-vacuum distillation on a Diekmann evaporator at 34° C.-36° C./0.25-0.3 mbar to obtain 0.95 g of racemic trans-2-(allylamino)-cyclohexylamine as white viscous liquid was thus obtained.

reactant | allylamine | 59.2 mmol, 4.50 ml | C(C=C)N | C3H7N
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 88.2 mmol, 4N, 22 ml | Cl | ClH
reactant | potassium hydroxide | 102.9 mmol, 7.9 ml | [OH-].[K+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | racemic trans-2-(allylamino)-cyclohexylamine | 0.95 g | C(C=C)N[C@H]1[C@@H](CCCC1)N | C9H18N2
